US04927970
1-(2,2-Dimethylpropoxy)-2-(3-bromopropylamino)-1-cyclobutene-3,4-dione
A solution of neopentyl alcohol (600 g, 6.82 moles) and toluene (1200 mL) was refluxed in suspension with 1,2-dihydroxy-1-cyclobutene-3,4-dione (230 g, 2.02 moles). Water was collected from the stirred mixture with a Dean-Stark separator. After water collection had stopped (ca. 11.5 hours) a clear, orange, homogeneous solution resulted. Reflux was continued and toluene (700 mL) was collected over an additional 1.5 hours. The solution was removed from reflux at this point and cooled to room temperature. Triethylamine (255 g, 2.50 moles) was added in a single portion to the stirred, room temperature solution. To this was added over 0.5 hour, a solution of bromopropylamine hydrobromide in absolute methanol (438 g, 2.0 moles of amine salt in 600 mL methanol). After addition was complete, the solution was stirred for an additional 0.5 hour. The mixture was concentrated at reduced pressure (45° C.) to a total volume of about 1500 mL. Water (2000 mL) was added and the solution was again concentrated at reduced pressure until about 1500 mL of distillate had been removed. The thick solution was filtered to isolate a white solid. The solid was recrystallized from 800 mL of warm isopropanol with gradual cooling to room temperature and -5° C. The product was collected by filtration, washed with two separate 500 mL portions of 1:1 hexane:isopropanol and dried at 45° C., aspirator pressure to a constant weight. The title compound was obtained as a white to very pale yellow powder, m.p. 111°-113° C., yield 528.4 g (86%).

reactant | neopentyl alcohol | 6.82 moles, 600 g | C(C(C)(C)C)O | C5H12O
reactant | 1,2-dihydroxy-1-cyclobutene-3,4-dione | 2.02 moles, 230 g | OC1=C(C(C1=O)=O)O | C4H2O4
reactant | Triethylamine | 2.50 moles, 255 g | C(C)N(CC)CC | C6H15N
reactant | bromopropylamine hydrobromide | Br.BrCCCN
reactant | methanol | 2.0 moles, 600 mL, 438 g | CO | CH4O
solvent | toluene | 1200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2,2-Dimethylpropoxy)-2-(3-bromopropylamino)-1-cyclobutene-3,4-dione | CC(COC1=C(C(C1=O)=O)NCCCBr)(C)C | C12H18BrNO3
